2123-09-01 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo Russian speaking male with h/o CAD, multiple PCIs, HTN, CHF,
   colon CA.  Presented to ED with chest pain.    BP 85/53.  HR 100,
   afebrile.  Hct found to be 20.  EKG with ST depressions in V2-V4.  Ha
   guiaic positive brown stool.  During infusion of 1st PRBC, he developed
   chest pain.  Negative transfusion work up, so got another on floor.
   Was also on/off NTG drip.  Got some SOB - got lasix.  At midnight, SBP
   50s systolic.   Got some fluid boluses, and pressures remained low.
   Transferred to MICU where SBP was 85.  HR in 70s. RR 16-22, sat 98% on
   3L.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Fluid bolus
   atrovent
   allopurinol
   asa
   lipitor
   plavix
   colace
   FeSO4
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes:  Blurry vision
   Cardiovascular: Chest pain
   Respiratory: Dyspnea
   Gastrointestinal: dark colored school
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: Anemia
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2123-9-1**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 77 (72 - 85) bpm
   BP: 89/46(57) {81/43(48) - 95/53(63)} mmHg
   RR: 23 (16 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             663 mL
   PO:
             TF:
   IVF:
   663 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    313 mL
   Respiratory support
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   194 K/uL
   108 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.2 mEq/L
   42 mg/dL
   110 mEq/L
   145 mEq/L
   29.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2123-9-1**]  03:16 AM
   WBC
   8.1
   Hct
   29.3
   Plt
   194
   Cr
   1.3
   TropT
   0.13
   Glucose
   108
   Other labs: PT / PTT / INR:14.3/28.6/1.2, CK / CKMB /
   Troponin-T:84//0.13, ALT / AST:[**1-2**], Alk Phos / T Bili:87/0.8, LDH:165
   IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR: increased edema compared to yesterday
   Assessment and Plan
   Hypotension:  Likely due to duiresis and IV NTG, as has largely
   resolved on its own in setting of AS.
   GIB:  Could be upper or lower.  1 episode of melena yesterday.
   Continue IV PPI
   Pulmonary Edema: Has some crackles and worsening CXR.  Will try low
   dose oral lasix.
   CAD/chest pain.  Continue ASA and plavix as per cardiology because of
   high risk CAD.  Start low dose beta blocker.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-9-1**] 03:18 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2123-09-02 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2123-9-1**] 05:00 PM
   Pt had acute episode of wheezing and distress, thought to be due to
   fluid overload after transfusion of 1un pRBCs.  Pt had diffuse bilat
   wheezes.  Diuresed with Lasix, however, pt then developed abdominal
   pain which was most likely [**2-13**] foley removal and resulting urinary
   obstruction and retention.  Failed multiple floor attempts to place
   foley, thought to be due to pt pulling on his foley prior to removal as
   well as creating multiple
tracks
 with each successive attempt.  Pt
   has known BPH, ? adenocarcinoma of prostate, and thus, urology was
   consulted.  Coudee catheter was placed with return of clear urine.  Has
   been more comoftable throughout the night.
   Iron defic anemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-9-1**] 08:00 AM
   Furosemide (Lasix) - [**2123-9-1**] 05:00 PM
   Metoprolol - [**2123-9-1**] 05:15 PM
   Morphine Sulfate - [**2123-9-1**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-9-2**] 05:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 93 (72 - 115) bpm
   BP: 108/56(69) {86/30(50) - 160/107(117)} mmHg
   RR: 32 (17 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.5 kg (admission): 53.5 kg
   Height: 61 Inch
                  Total In:
                                                                  2,115 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                  1,235 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,350 mL
                                                                    160 mL
   Urine:
                                                                  1,350 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    765 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Vt (Spontaneous): 518 (518 - 518) mL
   SpO2: 95%
   ABG: 7.36/45/128/28/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 256
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.4 g/dL
   106 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.8 mEq/L
   36 mg/dL
   107 mEq/L
   142 mEq/L
   31.2 %
   9.8 K/uL
        [image002.jpg]
                             [**2123-9-1**]  03:16 AM
                             [**2123-9-1**]  12:48 PM
                             [**2123-9-1**]  05:14 PM
                             [**2123-9-1**]  05:43 PM
                             [**2123-9-1**]  06:47 PM
                             [**2123-9-1**]  07:03 PM
                             [**2123-9-2**]  03:24 AM
   WBC
   8.1
   9.8
   Hct
   29.3
   31.7
   31.2
   Plt
   194
   174
   Cr
   1.3
   1.2
   TropT
   0.13
   0.14
   0.15
   TCO2
   28
   28
   26
   Glucose
   108
   106
   Other labs: PT / PTT / INR:14.2/28.3/1.2, CK / CKMB /
   Troponin-T:59//0.15, ALT / AST:[**1-2**], Alk Phos / T Bili:87/0.8, Lactic
   Acid:1.4 mmol/L, LDH:165 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   97-F w/ CAD s/p multiple interventions and h/o GIB w/ ongoing melanotic
   stools, who p/w worsening chest pain in the setting of Hct 20,
   worsening STd epressions on ECG, and ? transfusion reaction, now
   transferred to the MICU for care given persistently low BPs.
   .
   #. Hypotension - Pt transferred to the MICU for closer monitoring and
   care of his hypotension. Hypotension occurred on the floor in the
   setting of multiple possible etiologies. Pt p/w chest pain and has ST
   depressions on his ECG with a troponin bump, likely [**2-13**] demand
   ischemia, but consideration should be given to cardiogenic shock as a
   potential etiology. More obvious is the pt's low hematocrit at 20 on
   arrival, which is likely [**2-13**] GI bleeding as the pt had a witnessed
   large melanotic stool on the floor prior to his hypotension. The pt
   also had developed chest pain in the setting of being transfused, so
   the hypotension may be [**2-13**] transfusion reaction. Additionally, the pt
   received a lot of fluid in the form of PRBCs and IVF hydration, which
   made his saturations worse, and he received Lasix shortly before
   dropping his BPs, which would have contributed, esp in the setting of
   his known moderate-severe aortic stenosis. Finally, after receiving the
   Lasix, the pt was restarted on all his home anti-hypertensives, which
   he received at the same time that night. Most likely the persistent
   hypotension resistant to fluid boluses was [**2-13**] a combination of these
   factors, especially the medication effect. On arrival to the MICU the
   pt's SBP was in the mid 80s and improving.
   - cont close monitoring of pt's SBP
   - given that he is asymptomatic would be hesitant to start a
   vasopressor, esp given his concurrent comorbidities including the GI
   bleeding and demand ischemia
   - SBPs currently improving as the medication effect of pt's
   anti-hypertensives and Lasix wears off
   - treat GI bleeding as below
   - hold anti-hypertensives for now until pt's SBP improves to baseline
   - gentle diuresis only as needed if pt becomes SOB from worsening
   pulmonary congestion, as evidenced on physical exam / CXR
   - repeat CXR in AM
   .
   #. GI bleeding - Pt has h/o colon Ca and recent melanotic stools.
   Guaiac positive brown stool on rectal exam today, followed by witnessed
   large melanotic stool. Now s/p 3units PRBCs transfused, with
   appropriate response in Hct.
   - cont to transfuse PRBCs, goal Hct >30 given demand ischemia
   - check post-transfusion Hct
   - follow for further signs of bleeding
   - GI aware of pt, f/u re: possible scopes (pt has been unable to
   undergo scopes in the past given his unstable cardiac status)
   - IV PPI [**Hospital1 **]
   - serial Hcts Q6hrs given bleeding and continued use of ASA/Plavix
   - 2 large-bore PIVs
   - active type-&-cross
   .
   #. CAD - Pt w/ significant CAD hx s/p numerous interventions
   previously. Now w/ CP, worsening ECG findings (ST Depressions),
   uptrending CEs, all e/o NSTEMI.
   - transfusion goal >30
   - cont ASA/Plavix
   - BB as tolerated by BP for rate control
   - holding Heparin / anti-coagulation given GI bleeding
   - follow CEs through peak
   - cont holding other anti-hypertensives given pt's hypotension
   - cont to communicate w/ Cardiology, unlikely to go to cath
   .
   #. Pump - mild to moderate regional left ventricular systolic
   dysfunction with inferior akinesis and inferior septal/inferior lateral
   hypokiensis. Known modearte-to-severe aortic valve stenosis (area
   0.9cm2).
   - cont BB as tolerated by BP
   - holding other anti-hypertensives given current hypotension
   - gentle diuresis only as needed
   .
   #. HTN - BB as tolerated by BP, otherwise holding all other
   anti-hypertensives in the setting of hypotension as above
   .
   #. Gout - cont home allopurinol
   - holding colchicine unless pt develops acute gouty flare
   .
   #. Hyperlipidemia - cont home statin
   .
   #. FEN - sips, transfusion goal Hct >30, electrolyte repletion
   .
   #. Access - large-bore PIVs
   .
   #. PPx - pneumoboots (no heparin [**2-13**] GI bleeding), IV PPI [**Hospital1 **], bowel
   regimen
   .
   #. FULL CODE, confirmed with pt and son
   .
   #. Dispo - MICU for now
   .
   #. Communication - Son [**Name (NI) 4502**] primary contact: (H) [**Telephone/Fax (1) 4503**], (W)
   [**Telephone/Fax (1) 4504**].
   Daughter [**Name (NI) **]: [**Telephone/Fax (3) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-9-1**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-09-02 10:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo man with CHF, CAD, GIB, anemia.
   24 Hour Events:
 EKG - At [**2123-9-1**] 05:00 PM
   Became wheezy and SOB after unit of blood.  Patient pulled foley out,
   unable to put it back in.  Urology placed foley.  Did better after
   that.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-9-1**] 05:00 PM
   Metoprolol - [**2123-9-1**] 05:15 PM
   Morphine Sulfate - [**2123-9-1**] 06:15 PM
   Other medications:
   atrovent
   allopurinol
   asa
   lipitor
   plavix
   colace
   FeSO4
   protonix
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Genitourinary: Dysuria
   Flowsheet Data as of  [**2123-9-2**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 98 (84 - 115) bpm
   BP: 108/57(70) {86/30(50) - 160/107(117)} mmHg
   RR: 26 (17 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.5 kg (admission): 53.5 kg
   Height: 61 Inch
                  Total In:
                                                                  2,115 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                  1,235 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,350 mL
                                                                    295 mL
   Urine:
                                                                  1,350 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    765 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Vt (Spontaneous): 518 (518 - 518) mL
   SpO2: 96%
   ABG: 7.36/45/128/28/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 256
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   mild basilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   174 K/uL
   106 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.8 mEq/L
   36 mg/dL
   107 mEq/L
   142 mEq/L
   31.2 %
   9.8 K/uL
        [image002.jpg]
                             [**2123-9-1**]  03:16 AM
                             [**2123-9-1**]  12:48 PM
                             [**2123-9-1**]  05:14 PM
                             [**2123-9-1**]  05:43 PM
                             [**2123-9-1**]  06:47 PM
                             [**2123-9-1**]  07:03 PM
                             [**2123-9-2**]  03:24 AM
   WBC
   8.1
   9.8
   Hct
   29.3
   31.7
   31.2
   Plt
   194
   174
   Cr
   1.3
   1.2
   TropT
   0.13
   0.14
   0.15
   TCO2
   28
   28
   26
   Glucose
   108
   106
   Other labs: PT / PTT / INR:14.2/28.3/1.2, CK / CKMB /
   Troponin-T:59//0.15, ALT / AST:[**1-2**], Alk Phos / T Bili:87/0.8, Lactic
   Acid:1.4 mmol/L, LDH:165 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   Respiratory distress:  likely due to recurrent pulmonary edema due to
   severe chronic systolic heart failure and critical AS.
   GIB/anemia:  Will follow up with GI about their plan as far as his GIB
   goes.
   acute on chronic systolic HF, AS: Titrate up beta-blocker.
   GU:  WIll prophylax with cipro and get bladder U/S as per urology
   recommedations.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-9-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2123-09-03 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2123-9-2**] 02:00 PM
   Bladder U/S showed no hydronephrosis and no bladder stones.
   Per Uro recs: started cipro and flomax for BPH s/p foley manipulation
   and placement.
   UCx was negative, and cipro was d/ced
   Had AF with RVR to rate 100s. Given 25mg metoprolol instead of 12.5 for
   his pm dose (at home he takes 37.5mg [**Hospital1 **]). Ordered TSH, TTE, and
   enzymes. TTE pending. Enzymes 0.15 -> 0.2. CKs flat. Increased
   metoprolol to 25TID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-9-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-9-3**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 92 (82 - 112) bpm
   BP: 109/59(70) {69/19(28) - 152/124(115)} mmHg
   RR: 32 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.5 kg (admission): 53.5 kg
   Height: 61 Inch
                  Total In:
                                                                  1,030 mL
                  PO:
                                                                  1,020 mL
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    152 mL
   Urine:
                                                                    705 mL
                                                                    152 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   GEN: NAD, talking pleasantly in Russian.
   HEENT: MMM no JVD
   CV: RRR, NL S1S2 no S3S4. III/VI SEM heard best at the apex
   PULM: Bilat basilar crackles, improved
   ABD: BS+ NTND no HSM or masses
   PULSES: 2+ radial, DP
   Labs / Radiology
   179 K/uL
   9.8 g/dL
   138 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.0 mEq/L
   33 mg/dL
   108 mEq/L
   143 mEq/L
   32.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2123-9-1**]  03:16 AM
                             [**2123-9-1**]  12:48 PM
                             [**2123-9-1**]  05:14 PM
                             [**2123-9-1**]  05:43 PM
                             [**2123-9-1**]  06:47 PM
                             [**2123-9-1**]  07:03 PM
                             [**2123-9-2**]  03:24 AM
                             [**2123-9-2**]  10:11 PM
                             [**2123-9-3**]  04:32 AM
   WBC
   8.1
   9.8
   10.5
   Hct
   29.3
   31.7
   31.2
   31.8
   32.5
   Plt
   194
   174
   179
   Cr
   1.3
   1.2
   1.0
   TropT
   0.13
   0.14
   0.15
   0.20
   TCO2
   28
   28
   26
   Glucose
   108
   106
   138
   Other labs: PT / PTT / INR:14.2/28.3/1.2, CK / CKMB /
   Troponin-T:45//0.20, ALT / AST:[**1-2**], Alk Phos / T Bili:87/0.8, Lactic
   Acid:1.4 mmol/L, LDH:165 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   97-M w/ CAD s/p multiple interventions and h/o GIB w/ ongoing melanotic
   stools, who p/w worsening chest pain in the setting of Hct 20,
   worsening STd epressions on ECG, and pulm edema [**2-13**] volume overload
   caused by transfusions, transferred to the MICU for care given
   persistently low BPs.
   .
   #. Hypotension - Pt transferred to the MICU for closer monitoring and
   care of his hypotension. Hypotension occurred on the floor in the
   setting of multiple possible etiologies. Pt p/w chest pain and has ST
   depressions on his ECG with a troponin bump, likely [**2-13**] demand
   ischemia.  Troponins have nearly plateaued but no exact peak yet.  More
   obvious is the pt's low hematocrit at 20 on arrival, which is likely
   [**2-13**] GI bleeding as the pt had a witnessed large melanotic stool on the
   floor prior to his hypotension. The pt also had developed chest pain in
   the setting of being transfused, so the hypotension may be [**2-13**]
   transfusion reaction.  However, this is unlikely given his lack of
   hemolytic symptoms.  Path/blood bank is following.
   Most likely, pt is in an already tenuous situation due to his AS, that
   the volume overload associated with the transfusion combined withi his
   anxiety/pain, worsened his respiratory status.  Thinking that his
   decompensation was related to pulm edema, gave pt Lasix and nitro and
   he appropriately responded, giving more credence to this theory.
   At this time, pt is tachy but his pressures are low.  Is a narrow
   therapeutic window for treatment with antihypertensives, including
   lasix and BB.
   - cont close monitoring of pt's SBP
   - given that he is asymptomatic would be hesitant to start a
   vasopressor, esp given his concurrent comorbidities including the GI
   bleeding and demand ischemia
   - treat GI bleeding as below
   - gentle diuresis only as needed if pt becomes SOB from worsening
   pulmonary congestion, as evidenced on physical exam / CXR
   - repeat CXR in AM
   .
   #. GI bleeding - Pt has h/o colon Ca and recent melanotic stools.
   Guaiac positive brown stool on rectal exam today, followed by witnessed
   large melanotic stool. Now s/p multiple units PRBCs transfused, with
   appropriate response in Hct.
   - cont to transfuse PRBCs, goal Hct >30 given demand ischemia
   - check post-transfusion Hct
   - follow for further signs of bleeding
   - GI aware of pt, f/u re: possible scopes (pt has been unable to
   undergo scopes in the past given his unstable cardiac status)
   - IV PPI [**Hospital1 **]
   - serial Hcts Q12hrs given bleeding and continued use of ASA/Plavix but
   stable HCT x 2 tests
   - 2 large-bore PIVs
   - active type-&-cross
   .
   #. CAD - Pt w/ significant CAD hx s/p numerous interventions
   previously. Now w/ CP, worsening ECG findings (ST Depressions),
   uptrending CEs, all e/o NSTEMI.
   - Ideally, transfusion goal >30, however, may consider decreasing goal
   to 28 or 29 given his propensity to decompensate based on small amounts
   of fluid.
   - cont ASA/Plavix
   - BB as tolerated by BP for rate control
   - follow CEs through peak
   - cont to communicate w/ Cardiology, unlikely to go to cath
   .
   #. Pump - mild to moderate regional left ventricular systolic
   dysfunction with inferior akinesis and inferior septal/inferior lateral
   hypokiensis. Known modearte-to-severe aortic valve stenosis (area
   0.9cm2).
   - cont BB as tolerated by BP.  [**Month (only) 60**] need to increase BB to decrease
   tachycardia.
   - gentle diuresis only as needed
   .
   #. HTN - BB as tolerated by BP
   .
   #. Gout - cont home allopurinol
   - holding colchicine unless pt develops acute gouty flare
   .
   #. Hyperlipidemia - cont home statin
   .
   #. FEN - sips, transfusion goal Hct >30, electrolyte repletion
   .
   #. Access - large-bore PIVs
   .
   #. PPx
 pneumoboots, subq heparin, IV PPI [**Hospital1 **], bowel regimen
   .
   #. FULL CODE- confirmed with pt and son
   .
   #. Dispo - MICU for now

2123-09-03 12:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo man with severe systolic and diastolic HF, AS, admitted with GIB
   24 Hour Events:
 ULTRASOUND - At [**2123-9-2**] 02:00 PM
   overnight AF with some RVR - HR to low 100s.  Got 25mg lopressor with
   better HR control and back in sinus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-9-3**] 07:40 AM
   Heparin Sodium (Prophylaxis) - [**2123-9-3**] 07:40 AM
   Other medications:
   allopurinol
   lipitor
   plavix
   colace
   iron
   protonix
   hep s/q
   cipro
   lopressor 25 [**Hospital1 **].
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2123-9-3**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 95 (82 - 112) bpm
   BP: 105/58(71) {88/15(41) - 152/124(115)} mmHg
   RR: 28 (18 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.5 kg (admission): 53.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,030 mL
                                                                    410 mL
   PO:
                                                                  1,020 mL
                                                                    400 mL
   TF:
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    267 mL
   Urine:
                                                                    705 mL
                                                                    267 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                    143 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   mild basilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   179 K/uL
   138 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.0 mEq/L
   33 mg/dL
   108 mEq/L
   143 mEq/L
   32.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2123-9-1**]  03:16 AM
                             [**2123-9-1**]  12:48 PM
                             [**2123-9-1**]  05:14 PM
                             [**2123-9-1**]  05:43 PM
                             [**2123-9-1**]  06:47 PM
                             [**2123-9-1**]  07:03 PM
                             [**2123-9-2**]  03:24 AM
                             [**2123-9-2**]  10:11 PM
                             [**2123-9-3**]  04:32 AM
   WBC
   8.1
   9.8
   10.5
   Hct
   29.3
   31.7
   31.2
   31.8
   32.5
   Plt
   194
   174
   179
   Cr
   1.3
   1.2
   1.0
   TropT
   0.13
   0.14
   0.15
   0.20
   0.20
   TCO2
   28
   28
   26
   Glucose
   108
   106
   138
   Other labs: PT / PTT / INR:15.1/31.6/1.3, CK / CKMB /
   Troponin-T:45//0.20, ALT / AST:[**1-2**], Alk Phos / T Bili:87/0.8, Lactic
   Acid:1.4 mmol/L, LDH:165 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   GIB/Anemia:  Will try to get final plan from GI.  But likley outpatient
   follow up.  Change to PO PPI
   HOTN/Afib/CAD/acute on chronic systolic HF:  Slightly increased
   troponin today.  Now back in sinus, continue beta blocker.
   GU:  Will follow up with urology on plan for foley, but it will likely
   have to stay in.   No stones found, d/c cipro.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-9-1**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes